US05569664
To a stirred solution of 17.6 grams (0.041 mole) of 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]pyridine in 200 mL of diethyl ether was added about 20 mL of an ethanolic solution saturated with hydrogen chloride. Upon completion of addition, the reaction mixture was cooled to promote precipitation of the product. When the solid precipitate did not appear, the reaction mixture was slowly concentrated during a one hour period by passing a stream of nitrogen gas over the reaction mixture. During this time the solid precipitate still did not appear. Additional diethyl ether was added, and the stream of nitrogen gas over the reaction mixture was continued. The reaction mixture was finally concentrated under reduced pressure to near dryness, at which point a solid precipitate formed. The solid was slurried in about 10 mL of fresh diethyl ether and filtered to yield 9.3 grams of 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]pyridine hydrochloride. The NMR spectrum was consistent with the proposed structure.

reactant | 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]pyridine | 0.041 mole, 17.6 grams | FC(OC1=CC=C(C=C1)C(C1=CC=NC=C1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H13F6NO3
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | about 10 mL | C(C)OCC | C4H10O
product | 4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]pyridine hydrochloride | 9.3 grams | Cl.FC(OC1=CC=C(C=C1)C(C1=CC=NC=C1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | InChI=1S/C20H13F6NO3.ClH/c21-19(22,23)29-16-5-1-13(2-6-16)18(28,15-9-11-27-12-10-15)14-3-7-17(8-4-14)30-20(24,25)26;/h1-12,28H;1H
